US06818787B2
Piperidinium 1-{(2-Carbomethoxy-Cyclopent-1-enyl)aminomethyl}-1-Cyclohexane Acetate (126)
Methyl 2-oxocyclopentanecarboxylate (124 μL, 1 mmol), gabapentin (171 mg, 1 mmol), and piperidine (99 μL, 1 mmol) were mixed in anhydrous methanol (10 mL). After heating under reflux for 16 h, the solvent was removed under reduced pressure to afford the title compound with purity greater than 90%. 1H NMR (CDCl3, 400 MHz): δ 1.29-1.60 (m, 12H), 1.72 (m, 4H), 1.79 (m, J=7.6 Hz, 2H), 2.24 (s, 2H), 2.49 (t, J=7.6 Hz, 2H), 2.55 (t, J=7.6 Hz, 2H), 2.99 (m, 4H), 3.24 (d, J=6.8 Hz, 2H), 3.63 (s, 3H), 5.06 (s, br, 2H), 7.93 (s, br, 1H). MS (ESI) m/z 294.36 (M−H−).

reactant | Methyl 2-oxocyclopentanecarboxylate | 1 mmol, 124 μL | O=C1C(CCC1)C(=O)OC | C7H10O3
reactant | gabapentin | 1 mmol, 171 mg | C1CCC(CC1)(CC(=O)O)CN | C9H17NO2
reactant | piperidine | 1 mmol, 99 μL | N1CCCCC1 | C5H11N
solvent | methanol | 10 mL | CO | CH4O
product | Piperidinium 1-{(2-Carbomethoxy-Cyclopent-1-enyl)aminomethyl}-1-Cyclohexane Acetate | C(=O)(OC)C1=C(CCC1)NCC1(CCCCC1)CC(=O)[O-].[NH2+]1CCCCC1 | InChI=1S/C16H25NO4.C5H11N/c1-21-15(20)12-6-5-7-13(12)17-11-16(10-14(18)19)8-3-2-4-9-16;1-2-4-6-5-3-1/h17H,2-11H2,1H3,(H,18,19);6H,1-5H2
